US07973181B2
Stage 1: (S)-2-tert-Butoxycarbonylamino-pentanedioic acid 5-benzyl ester 1-cyclopentyl ester
To a solution of Boc-L-Glu(OBzl)-OH (15 g, 44.5 mmol) in dichloromethane (220 ml) in an ice-bath, was added cyclopentanol (4.8 ml, 53.3 mmol), EDC (9.4 g, 48.9 mmol) and DMAP (543 mg, 4.4 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 12 hours for complete reaction. The reaction mixture was diluted with DCM (200 ml) and washed with 1M HCl, 1M Na2CO3 and brine. The organic layer was then dried over magnesium sulphate and evaporated under reduced pressure. The product was purified by column chromatography using ethyl acetate/heptane (1:4) to give 12.4 g, 69% yield of title compound as a white solid. 1H NMR (300 MHz, CDCl3), δ: 7.38 (5H, m), 5.70 (1H, m), 5.10 (2H, s), 5.05 (1H, m), 4.25 (1H, m), 2.47 (2H, m), 2.15 (1H, m), 1.95-1.55 (9H, bm), 1.47 (9H, s).

reactant | Boc-L-Glu(OBzl)-OH | 44.5 mmol, 15 g | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C17H23NO6
reactant | cyclopentanol | 53.3 mmol, 4.8 ml | C1(CCCC1)O | C5H10O
reactant | EDC | 48.9 mmol, 9.4 g
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
catalyst | DMAP | 4.4 mmol, 543 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-tert-Butoxycarbonylamino-pentanedioic acid 5-benzyl ester 1-cyclopentyl ester | 12.4 g, 69% yield | C1(CCCC1)OC([C@H](CCC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C22H31NO6
